US04000305
The process described in Example 1 for the preparation of dimethyl [2-oxo-3-(pyrid-3-yloxy)propyl]-phosphonate was repeated, using ethyl 3-(pyrid-4-yl)propionate in place of ethyl 3-pyridyloxyacetate, to give dimethyl [2-oxo-4-(pyrid-4-yl)butyl]phosphonate, RF = 0.63 (acetone). The n.m.r. spectrum in deuteriochloroform showed the following characteristic absorptions (δ values):

reactant | dimethyl [2-oxo-3-(pyrid-3-yloxy)propyl]-phosphonate | O=C(CP(OC)(OC)=O)COC=1C=NC=CC1 | C10H14NO5P
reactant | ethyl 3-(pyrid-4-yl)propionate | N1=CC=C(C=C1)CCC(=O)OCC | C10H13NO2
solvent | acetone | CC(=O)C | C3H6O
product | dimethyl [2-oxo-4-(pyrid-4-yl)butyl]phosphonate | O=C(CP(OC)(OC)=O)CCC1=CC=NC=C1 | C11H16NO4P
